* source EC1-PROJECT-SIMULATION
C_C3         N00447 VIN  100u  
Q_Q1         VOUT N00257 N00447 BC107A 
V_VCC         N00153 0 5Vdc
C_C4         0 N00257  100u  
R_RC         VOUT N00153  6.8k  
V_V1         VIN 0  
+SIN 1 100m 10k 0 0 0
R_R_B2         N00257 N00153  3.3k  
R_R_B1         0 N00257  1k  
R_RE         0 N00447  1k  
