* source E1-PROJECT-SIMULATION
Q_Q1         VOUT N00334 N00581 BC107A 
R_RC         VOUT N00284  5.6k  
R_RE         0 N00581  3.7k  
R_RB2         N00334 N00284  100  
R_RB1         0 N00334  100  
C_CE         0 N00581  100u  
C_C1         N00334 VIN  100u  
V_V1         VIN 0  
+SIN 0 10m 10k 0 0 0
V_Vcc         N00284 0 5Vdc
