* source ELEC3_HW02
R_R7         0 N01462  100K  
V_V3         N02180 0 DC 0Vdc AC 1mVac 
M_M4         N01509 N01462 N01558 N01558 M2N7000
C_C3         0 N01400  2u  
R_R1         N01341 N01844  1k  
R_R2         N01509 N01844  1k  
C_C5         N01648 N01509  3u  
R_R3         0 N01400  0.4K  
M_M5         N01341 N02180 N01400 N01400 M2N7000
C_C6         N01462 N01341  1u  
R_R4         0 N01648  100k  
C_C7         0 N01558  1.5u  
R_R5         N01462 N01844  65K  
V_V1         N01844 0 1.8Vdc
R_R6         0 N01558  0.4K  
