* source ELEC3_HW02
Q_Q1         N01738 N01242 N01322 Q2N2222A
V_V4         N02165 0 DC 0Vdc AC 1mVac 
R_R1         N01242 N01738  9.3K  
Q_Q2         N01381 N01322 N01410 Q2N2222A
R_R2         N01612 N01242  10.7K  
R_R3         N01215 N02165  10k  
C_C1         N01215 N01242  22u  
R_R4         N01612 N01322  10k  
V_V2         0 N01612 10Vdc
R_R5         N01612 N01410  9.3k  
V_V1         N01738 0 10Vdc
R_R6         N01381 N01738  5k  
C_C5         N01612 N01410  100u  
R_R8         N01612 N01503  5k  
C_C7         N01381 N01503  22u  
C_C8         N01612 N01503  30p  
