* source AZ3
R_R3         N02927 0  680  
R_R4          1k  
Q_Q2         VOUT N00429 N03166 Q2N2222
V_V1         N01558 0 10
C_C2         N01265 VOUT  33n  
C_C3         0 N01265  3.3n  
C_C4         0 N00429  1000u  
L_L1         N01558 VOUT  8.2u  
L_L2         N01265 N02927  820u  
R_R6         N01265 N03166  47  
R_R1         N00429 N01558  1k  
R_R2         0 N00429  2.6k  
