* source AZ4
Q_Q1         VO1 N00530 N00419 Q2N2222
V_V1         N00264 0 12
R_R3         N00530 N00264  120k  
R_R1         VO1 N00264  18k  
R_R4         0 N00530  39k  
R_R2         0 N00419  2.2k  
X_TX1    N00264 VO1 0 VO2 SCHEMATIC1_TX1 
C_C3         0 N00530  1u IC=1 
C_C2         N00419 VO2  47n IC=1 
C_C1         VO1 N00264  470p IC=1 

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 47.5uH
L2_TX1         3 4 1uH
.ends SCHEMATIC1_TX1
