* source AZ5
C_C4         0 N00643  100n  
Q_Q1         N00397 N00528 N00643 Q2N2222
L_L1         N00397 N00335  82u  
Q_Q2         N00643 N00783 N00768 Q2N2222
V_V2         0 N00815 10
R_R1         N00528 N00335  1k  
R_R2         N00397 N00335  10k  
R_R3         0 N00783  2.7k  
R_R4         N00815 N00783  1k  
R_R5         N00815 N00768  15k  
V_V1         N00335 0 10
C_C3         N00397 N00335  1.5n  
