* source AZ6
R_R1         N00618 N00417  1k  
Q_Q2         VOUT N00783 N00677 Q2N2222
V_V1         N00417 0 12
R_R2         VOUT N00417  10k  
R_R3         0 N01039  2.2k  
V_V6         V 0  
+SIN 0 1.65 2k 0 0 0
R_R4         0 N00647  33k  
Q_Q3         N00677 N00647 N00910 Q2N2222
C_C4         VIN N01039  1n  
R_R5         N00983 N00647  15k  
V_V2         0 N00983 12
R_R6         N00983 N00910  1.5k  
R_R7         0 N00783  2.2k  
V_V4         VIN 0  
+SIN 0 0.06 451k 0 0 0
C_C1         0 N00783  1n  
C_C3         V N00647  100n  
C_C2         VOUT N00417  1.5n  
L_L1         N00417 VOUT  82u  
Q_Q1         N00618 N01039 N00677 Q2N2222
