* source DIFFAMP
Q_Q1         N00306 N00642 N00069 Q2N2222A/ZTX 
Q_Q3         N00069 N01208 N002462 Q2N2222A/ZTX 
Q_Q2         VOUT 0 N00069 Q2N2222A/ZTX 
R_R5         N007541 N002462  5.6k  
V_V2         VIN 0 DC 0Vdc AC 1Vac 
R_R2         VOUT N00306  820  
V_V1         N00306 0 12
V_V3         0 N007541 12
R_R3         N00642 N00670  120  
R_R6         N01208 0  1k  
R_R4         N00670 VIN  50  
