* source CASCODEAMP
R_R1         N00463 N00436  47k  
R_R2         0 N00463  10k  
C_C3         VIN N00463  1u  
C_C4         0 N01203  10u  
C_C1         N01114 VOUT  1u  
R_R4         N01114 N00436  1k  
R_R5         0 N01203  220  
R_R3         0 VOUT  1k  
V_V1         N00436 0 12
Q_Q1         N01114 N00463 N01203 Q2N2222A/ZTX 
V_V6         VIN 0 DC 0Vdc AC 1Vac 
