* source GAE
Q_Q10         N01162 N01867 N01357 Q2N2222A/ZTX 
R_R2         VOUT N02699  680  
R_R11         N01867 0  318  
R_R3         VOUT N01647  600  
C_C1         N01867 0  0.1n IC=1 
R_R4         N01647 0  270  
C_C2         VOUT N01948  0.1n IC=1 
V_V3         N02507 0 12
R_R5         N02507 N01082  1k  
R_R6         N01162 N02507  3.3k  
Q_Q9         N01082 N01647 N01277 Q2N2222A/ZTX 
R_R7         N01360 N01277  18  
R_R8         N01360 N01357  18  
R_R9         N02699 N01360  3.9k  
Q_Q8         VOUT N01162 N00776 BC177AP/ZTX 
R_R10         N01948 N01867  318  
V_V2         0 N02699 12
R_R1         N00776 N02507  120  
