* source GWG
R_R3         VIN N04767  0.4679  
C_C4         VIN N04767  0.11  
C_C3         N04767 N04984  0.077  
R_R4         N04767 N04984  27.67  
V_V1         VIN 0  
+PULSE 0mv 1mv 0 0 0 10ms 10ms
R_R2         N04452 VOUT  47k  
R_R1         N04984 N04329  33k  
R_R11         N04329 N04356  33k  
R_R22         N04356 N04452  47k  
C_C2         N04329 N04356  1u  
C_C1         N04452 VOUT  1u  
E_U5         N04984 0 VALUE {LIMIT(V(0,N04767)*1E6,-15V,+15V)}
