* source JRYK
R_R1         N00234 N01081  7.5k  
C_C4         0 N00305  470u  
R_R2         0 N00234  400  
R_R3         0 N00305  100  
L_L1         N01081 VOUT  22m  
V_V1         N01081 0 9
L_L2         VOUT N00659  4.7u  
C_C1         0 VOUT  1n  
C_C2         N00659 0  10n  
C_C3         N00234 N00659  10u  
Q_Q1         VOUT N00234 N00305 Q2N2222
