* source SCS
X_U1         0 N00459 N01911 N01748 VA AD741
R_R1         VC N00459  470  
R_R2         N00459 VA  1k  
X_U2         0 N00836 N01911 N01748 VB AD741
R_R3         VA N00836  470  
R_R4         N00836 VB  1k  
X_U3         0 N01353 N01911 N01748 VC AD741
R_R5         VB N01353  470  
R_R6         N01353 VC  1k  
C_C1         N00459 VA  47n  
C_C2         N00836 VB  47n  
V_V2         N01911 0 10
C_C3         N01353 VC  47n  
V_V1         0 N01748 10
