* source ELEC1LAB_FINALL
Q_Q1         N01602 N00645 N00728 Q2N2222A/ZTX 
R_R1         0 N00728  100  
R_R2         N01200 N01602  150k  
V_V3         VIN 0 DC 0Vdc AC 1Vac 
R_R3         0 N01200  20k  
C_C6         0 N01289  0.1u  
R_R4         N01260 N01602  2.2k  
C_C7         N00728 VOUT  100n  
R_R5         N00645 N01602  91k  
C_C8         N01260 N00645  100n  
R_R6         0 N00645  100k  
Q_Q2         N01260 N01200 N01289 Q2N2222A/ZTX 
R_R7         VOUT 0  1k  
R_R8         0 N01289  100  
C_C1         VIN N01200  100u  
V_V1         N01602 0 10Vdc
