* source E1_LAB1
V_V1         N03270 0  
+SIN 0 4 100 0 0 0
D_D6         N03338 N03322 D1N4148 
V_V2         N03338 0 2Vdc
R_R3         N03270 N03322  1k  
