* source ELEC1_LAB10
Q_Q1         N00618 N00187 N00247 BC107A 
R_R1         N00187 N00618  10k  
V_V8         N03207 0 DC 0Vdc AC 1Vac 
V_V7         N00618 0 12Vdc
R_R2         0 N00187  18k  
C_C3         N03207 N00187  1u  
R_R3         0 N00247  1k  
R_R4         N00333 0  1k  
C_C4         N00247 N00333  1u  
