* source ELEC1_LAB3
V_V1         N00081 0  
+SIN 0 6 500 0 0 0
D_D1         N00081 N00119 D1N4148 
C_C1         0 N00119  100u  
R_R1         0 N00119  1  
