* source ELEC2_LAB4
D_D1         N00125 VOUT D1N4148 
D_D2         N00152 VOUT D1N4148 
D_D3         0 N00125 D1N4148 
D_D4         0 N00152 D1N4148 
R_R1         0 VOUT  100k  
V_V1         N00125 N00152  
+SIN 0 8 500 0 0 0
C_C1         0 VOUT  470u  
