* source ELEC1_LAB6
Q_Q1         N05108 0 N00416 BC107A 
D_D2         N002251 N037300 D1N4148 
V_V4         N037300 0  
+SIN 0 7.5 100 0 0 0
R_R1         N002251 N00416  1k  
V_V5         N05108 0 20
