* source ELEC1_LAB7
Q_Q1         N00129 N00192 0 BC107A 
R_R1         VB N00192  470  
V_V1         VB 0 8
R_R2         N00165 N00129  1k  
D_D1         N03169 N00165 D1N4148 
V_V3         N03169 0  
+SIN 0 10 100 0 0 0
