* source ELEC1_LAB8
R_R1         VOUT N00434  1k  
R_R4         0 N00251  320k  
C_C2         VIN N00251  10u  
V_V1         VIN 0  
+SIN 0 1.5 1k 0 0 0
Q_Q1         VOUT N00251 N02623 BC107A 
R_R3         0 N02623  1k  
V_V2         N00434 0 5
R_R2         N00251 N00434  220k  
