* source A
Q_Q1         N00282 N00312 N00274 Q2N2222
Q_Q2         N00355 N00296 N00278 Q2N2222
R_R1         N00478 N00282 1k
R_R2         N00478 N00312 31.6k
C_C1         N00282 N00296 6.8n
R_R3         N00478 N00296 10.53k
R_R4         N00478 N00355 1k
C_C2         N00312 N00355 6.8n
D_D1         N00274 0 D1N4148 
D_D2         N00278 0 D1N4148 
V_V1         N00478 0 10Vdc
