* source PSPICE
D_D2         N01330 0 D1N4148 
D_D1         N01324 0 D1N4148 
R_R1         N01192 N01198  0.5k  
C_C1         N01212 N01226  6.8n IC=0 
R_R3         N01226 N01198  10.53k  
Q_Q2         N01192 N01226 N01330 Q2N2222
V_V1         N01198 0 10Vdc
C_C2         N01234 N01192  6.8n IC=0 
Q_Q1         N01212 N01234 N01324 Q2N2222
R_R2         N01234 N01198  31.6k  
R_R4         N01212 N01198  0.5k  
