* source PULSE-HW09
Q_Q1         0 N04066 N04358 Q2N1420
R_R19         N09959 N08225  240  
R_R2         N02297 N01589  240  
R_R13         N06741 N04474  240  
Q_Q2         0 N08568 N09300 Q2N1420
R_R3         N09300 N02329  2k  
V_V1         N09754 0 10Vdc
R_R4         N09300 N03257  14.3k  
V_V2         0 N09959 10Vdc
R_R15         N08225 N06741  240  
Q_Q20         N09959 N06741 N07862 Q2N1132
R_R5         0 N03354  240  
R_R16         N07862 0  27k  
R_R20         N08568 0  27k  
Q_Q13         0 N01646 N09300 Q2N1132
R_R6         N04066 0  27k  
Q_Q21         0 N03172 N03257 Q2N1132
R_R7         N01589 N09754  412  
Q_Q22         N09959 N04474 N04066 Q2N1132
Q_Q6         0 N07862 N09192 Q2N1420
V_V5         N10977 0  
+PWL 0 0 5m 20 10m 0 15m 0 20m 20 25m 0 30m 0 
Q_Q14         0 N05256 N02329 Q2N1132
R_R8         0 N05256  27k  
Q_Q23         N09959 N08225 N08568 Q2N1132
Q_Q7         N09754 N03354 N03172 Q2N1420
R_R9         0 N03172  27k  
Q_Q8         N09754 N01589 N01646 Q2N1420
R_R10         N03354 N02297  240  
R_R21         N10977 N09300  1k  
Q_Q9         N09754 N02297 N05256 Q2N1420
R_R11         N09300 N04358  14.3k  
R_R27         N09300 N09192  2k  
R_R1         0 N01646  27k  
R_R12         N04474 0  1k  
