* source PULSE_HW02
Q_Q1         N00552 N00490 0 BC107A 
R_R1         N00552 N00739  1k  
R_R2         0 N00490  10k  
R_R3         N00409 N00463  1k  
C_C2         N00463 N00490  5n  
V_V1         N00409 0  
+PULSE 0 5 0 1n 1n 10us 0
V_V2         N00739 0 10Vdc
