* source PULSE_HW04
R_R1         N00843 N00903  0.5k  
R_R2         N01888 N01423  1k  
R_R3         N01888 N01372  2k  
V_V5         0 N01888 5Vdc
Q_Q3         N00843 VIN N00995 Q2N2222A/ZTX 
Q_Q4         N00995 N01548 N01372 Q2N2222A/ZTX 
R_R5         N01888 N01548  27k  
Q_Q5         VOUT N00903 N00995 Q2N2222A/ZTX 
Q_Q6         N00995 N01548 N01423 Q2N2222A/ZTX 
R_R7         N00843 N00961  1.4k  
R_R8         VOUT N00961  1k  
R_R9         0 N01548  23k  
V_V1         N00961 0 10Vdc
V_Vin         VIN 0  
+SIN {vdc} 1 100 0 0 0
.PARAM  vdc=1
