* source PULSE_HW06
Q_Q2         N00921 N00950 0 Q2N1566
Q_Q1         N00950 N00853 N00885 Q2N1132
R_R1         0 N00950  25k  
R_R2         0 N00853  20k  
R_R3         N00921 N00885  5k  
V_V1         N00885 0 10Vdc
C_C3         N00853 N00921  0.01u  
