* source PULSE_HW06
Q_Q2         N00697 N00503 0 Q2N1420
V_V5         N01247 0 12Vdc
Q_Q1         N00668 N00467 0 Q2N1420
V_V10         N00467 0  
+SIN 0 0.5m 50 0 0 0
R_R1         N00697 N01247  2k  
R_R2         N00668 N01247  2k  
R_R4         N00467 N00697  50k  
V_V6         N01639 0 16Vdc
R_R5         N00503 N01639  50k  
C_C1         N00668 N00503  0.01u  
