* source PULSE_HW07_Q32
Q_Q2         N00896 N01164 0 BC107A 
Q_Q3         N00867 N01132 0 BC107A 
C_C3         N01132 N00896  400P  
V_V1         N01196 0 8Vdc
C_C4         N00867 N01164  270P  
R_R1         N00896 N01196  2k  
R_R3         N01132 N01196  200k  
R_R5         N01164 N01196  200k  
R_R6         N00867 N01196  2k  
