* source PULSE_HW07_Q36
X_U1         N00751 N00791 N01418 N01458 N00945 LM741
D_D1         N00915 N00887 D02CZ9_1 
R_R1         N00751 N01120  1k  
D_D2         0 N00887 D02CZ9_1 
R_R2         N00945 N00915  1k  
R_R3         0 N00791  1k  
C_C1         0 N00751  1n  
R_R4         N00791 N00915  1k  
R_R5         N00751 N01147  1k  
D_D3         N01120 N00915 D1N4148 
V_V1         N01418 N01458 12Vdc
D_D4         N00915 N01147 D1N4148 
