* source PULSE-HW01
C_C6         0 N01894  20P  
R_R5         N01878 N01894  9000k  
V_V2         N01878 0  
+PULSE -1 5 1n 1n 1n 1u 3u
R_R6         0 N01894  1000k  
C_C5         N01878 N01894  2.2P  
