* source PULSE-HW03-SIMULATION
R_R2         N09195 N09465  0.5k  
R_R1         N09195 N09267  1.4k  
Q_Q4         N09457 N09277 N09271 Q2N2222A/ZTX 
R_R4         N09409 N09317  2k  
Q_Q2         OUT N09465 N09457 Q2N2222A/ZTX 
R_R7         0 N09277  23k  
V_V2         0 N09409 5
R_R3         OUT N09267  1k  
V_V1         N09267 0 10Vdc
Q_Q3         N09457 N09277 N09317 Q2N2222A/ZTX 
R_R6         N09409 N09277  27k  
R_R8         N09409 N09271  1k  
V_V3         IN 0  
+SIN 0 10 100 0 0 0
Q_Q5         N09195 IN N09457 Q2N2222A/ZTX 
